US07781478B2
2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile (600 mg, 1.81 mmol), prepared as in example 1CM, step B, is suspended in CH2Cl2 (18 mL), and Et3N (390 μL, 2.7 mmol). Trifluoroacetic anhydride (310 μL, 2.2 mmol) is added dropwise. The reaction mixture is stirred at room temperature for 30 minutes, after which time dissolution is complete. The reaction mixture is then washed with saturated NaHCO3 solution. The organic layer is dried and concentrated to yield N-[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-2,2,2-trifluoro-acetamide (802 mg, 100%) as a yellow solid.

reactant | 2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile | 1.81 mmol, 600 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1 | C21H21N3O
reactant | Et3N | 2.7 mmol, 390 μL | CCN(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 2.2 mmol, 310 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-2,2,2-trifluoro-acetamide | 802 mg, 100% | C(#N)C1=C(N(C2=CC(=CC=C12)OCC)C1CCC1)C1=CC=C(C=C1)NC(C(F)(F)F)=O | C23H20F3N3O2
